US04894386
Methyl 4-[5-[1-hydroxy-2-(propylcarbamoyl)butyl]-1-propylindol-3-ylmethyl]-3-methoxybenzoate (0.75 g, as a mixture of diastereomers) was combined with acetic anhydride (0.31 g), triethylamine (0.152 g), and methylene chloride (20 ml), under a nitrogen atmosphere, and the mixture heated under reflux for 20 hr. The cooled mixture was diluted with ethyl acetate, washed (1M hydrochloric acid (twice), water, brine), dried (MgSO4) and evaporated to give a dark oil. The product was purified by flash chromatography, eluting with 8:2 methylene chloride:ethyl acetate, to give methyl 4-[5-[1-acetoxy-2-(propylcarbamoyl)butyl]-1-propylindol-3-ylmethyl]-3-methoxybenzoate (0.69 g, 85%, as a mixture of diastereomers) as an oil: partial NMR (300 MHz, DMSO-d6): 0.40(t, 3H, CH3, one isomer), 0.66(t, 3H, CH3, other isomer), 0.79(m, 12H, 2×CH3, one isomer, 2×CH3, other isomer), 1.84(s, 3H, OCOCH3, one isomer), 1.97(s, 3H, OCOCH3, other isomer), 5.66 (d, 1H, CHOCOCH3, one isomer), 5.79(d, 1H, CHOCOCH3, other isomer), 7.67(br t, 1H, NH, one isomer), 8.04(br t, 1H, NH, other isomer).

reactant | Methyl 4-[5-[1-hydroxy-2-(propylcarbamoyl)butyl]-1-propylindol-3-ylmethyl]-3-methoxybenzoate | OC(C(CC)C(NCCC)=O)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C29H38N2O5
reactant | acetic anhydride | 0.31 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.152 g | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[5-[1-acetoxy-2-(propylcarbamoyl)butyl]-1-propylindol-3-ylmethyl]-3-methoxybenzoate | C(C)(=O)OC(C(CC)C(NCCC)=O)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C31H40N2O6
